* C:\Users\kipman725\Documents\GitHub\MegaPlateAmp\Sims\GaNSystems\PWR_STAGE_LOSS.asc
T1 N008 0 N010 0 Td={dt} Z0=50
R2 N010 0 50
A2 0 N008 N003 N010 0 0 LS 0 AND
T2 N002 0 N004 0 Td={dt} Z0=50
R3 N004 0 50
A3 0 N002 N003 N004 0 0 HS 0 AND
VStartupDelay N003 0 PULSE(0 1 1u 10n 10n 9999)
XU1 N006 N001 N011 N011 GaN_LTspice_GS-065-011-1-L_L1V4P1
XD1 N009 N005 mss1p3l
R1 N006 N009 2
R4 N006 N005 15
E1 N005 N011 HS 0 {gd_volt}
XU2 N015 N011 0 0 GaN_LTspice_GS-065-011-1-L_L1V4P1
XD2 N016 N014 mss1p3l
R5 N015 N016 2
R6 N015 N014 15
E2 N014 0 LS 0 {gd_volt}
V1 N001 0 {dcbus} Rser=10m
L1 N012 N013 470µH
C1 N013 0 10µ IC={output_v}
R7 N013 0 {Rload}
A1 N007 0 0 0 0 N008 N002 0 SCHMITT
V2 N007 0 PULSE(0 1 0 10n 10n {duty/fsw} {1/fsw})
R8 N012 N011 115m
.tran 0 4m 3m 1n
.model LimiterDiode D(Ron=1m Roff=1Meg Vfwd={dcbus})
.model SW_D D(Ron=1m Roff=1Meg Vfwd=0.2 Vrev=3000)
.model AMPSW SW(Ron=1m Roff=10Meg Vt=.5 Vh=-.4)
.param fsw=480e3 dt=35n dcbus=390 output_v=300 output_I=4 duty=output_v/dcbus Rload=output_v/output_I gd_volt=6
* Deadtime generation
.option temp=25; Set Tj
.option ITL1=500
.option ITL2=500
.option ITL4=500
.option RELTOL=0.01
.option ABSTOL=1E-9
.option CHGTOL=1E-12
.option VNTOL=1E-6
.option GMIN=1E-15
.option TRTOL=1
.option noopiter
.option gminsteps=0
.opton topologycheck=0
.subckt mss1p3l 1 2
ddio 1 2 legd
dgr 1 2 grd
.model legd d is = 1.16736E-008 n = 0.951088 rs = 0.140179
+ eg = 0.400064 xti = 0.5012 tnom = 27
+ cjo = 1.66308E-010 vj = 0.700989 m = 0.467798 fc = 0.5
+ tt = 2.4663E-010 bv = 33 ibv = 0.1 af = 1 kf = 0
.model grd d is = 1.74803E-007 n = 0.906853 rs = 0.115937
+ eg = 0.66454 xti = 1.71799 tnom = 27
.ends
* Output capcitance reduced to speed up convergance
.lib GaN_LTspice_GS-065-011-1-L_L1V4P1.lib
.backanno
.end
